US08461372B2
To a mixture of Tyrosine ethyl ester (40 g) and Triethylamine (40 ml) in Ethyl acetate (600 ml) at 0° C. temperature was added Chloro carbonyl methoxy-acetic acid benzyl ester (46.5 g) drop wise. The reaction mixture was further stirred at room temperature for 10 hours. The solids were filtered off and the organic phase was washed with 5% sodium bicarbonate solution (600 ml) and water (600 ml). It was dried over sodium sulphate and organic solvent was distilled. The crude was purified by column chromatography on silica gel using Hexane:Ethyl acetate (8:2) to get pure 2-(2-Benzyloxy carbonyl methoxy-acetyl amino)-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (30 g) as a light yellow syrup. The product was characterized by 1H NMR (CDCl3) δ 1.20 (t, 3H, CH3), 2.90 to 3.10 (m, 2H, CH2), 4.10 to 4.30 (m, 6H, 3X CH2), 4.85 (q, 1H, CH), 5.20 (s, 2H, CH2), 5.80 (bs, 1H, NH), 6.70 (d, 2H, Ar), 7.00 (d, 2H, Ar), 7.40 (m, 5H, Ar).

reactant | Tyrosine ethyl ester | 40 g | C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C11H15NO3
reactant | Triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
reactant | Chloro carbonyl methoxy-acetic acid benzyl ester | 46.5 g | C(C1=CC=CC=C1)OC(C(OC)C(=O)Cl)=O | C11H11ClO4
reactant | Ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-Benzyloxy carbonyl methoxy-acetyl amino)-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 30 g | C(C)OC(C(CC1=CC=C(C=C1)O)N(C(CC(=O)OCC1=CC=CC=C1)=O)OC)=O | C22H25NO7
